US04533670
1-(9H-fluoren-2-yl)-2-(2-methyl-1H-imidazol-1-yl)ethanone hydrochloride
A solution of 12.0 g. of 2-(bromoacetyl)fluorene in 150 ml. of dimethylformamide was added to an ice-cooled solution of 24 g. of 2-methylimidazole in 150 ml. of dimethylformamide. The mixture was allowed to warm to room temperature and was stirred overnight. The reaction mixture was poured into water containing one equivalent of sodium hydroxide. The resulting precipitate was filtered and the filtrate was extracted with ethyl acetate. The ethyl acetate solution was washed first with water and then with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and evaporated in vacuo. The residue was combined with the filtered precipitate and dissolved in hot acetone. Three equivalents of hydrochloric acid were added and upon the addition of diethyl ether, 6.65 g. of the desired title product formed which were recovered by filtration, m.p. 275°-276° C. with decomposition.

reactant | 2-(bromoacetyl)fluorene | BrCC(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H11BrO
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | water | one equivalent | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Three equivalents | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(9H-fluoren-2-yl)-2-(2-methyl-1H-imidazol-1-yl)ethanone hydrochloride | Cl.C1=C(C=CC=2C3=CC=CC=C3CC12)C(CN1C(=NC=C1)C)=O | InChI=1S/C19H16N2O.ClH/c1-13-20-8-9-21(13)12-19(22)15-6-7-18-16(11-15)10-14-4-2-3-5-17(14)18;/h2-9,11H,10,12H2,1H3;1H
